US06440995B1
4-Chloro-2-(3,4-dichloro-phenyl)-7-methoxy-quinoline
The title compound, m. p. 122-131° C., MS: m/e=338 (M+), was prepared from 4-chloro-7-methoxyquinoline and 3,4-dichloroiodobenzene.

reactant | 4-chloro-7-methoxyquinoline | ClC1=CC=NC2=CC(=CC=C12)OC | C10H8ClNO
reactant | 3,4-dichloroiodobenzene | ClC=1C=C(C=CC1Cl)I | C6H3Cl2I
product | 4-Chloro-2-(3,4-dichloro-phenyl)-7-methoxy-quinoline | ClC1=CC(=NC2=CC(=CC=C12)OC)C1=CC(=C(C=C1)Cl)Cl | C16H10Cl3NO
